US08110687B2
To a solution of oxalyl chloride (0.086 mL, 1.02 mmol) in DCM (4 mL) at −78° C., was added a solution of DMSO (0.109 mL, 1.53 mmol) in DCM (1 mL) dropwise. The reaction mixture was allowed to stir at −78° C. for 30 min, and then a solution of tert-butyl [3-{[(7-{[2-(hydroxymethyl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalen-2-yl)carbonyl]amino}-5-(trifluoromethyl)benzyl]carbamate (292 mg, 0.51 mmol) in DCM (1 mL) was added dropwise. After 45 min. the reaction was incomplete. In a separate flask, oxalyl chloride (0.086 mL, 1.02 mmol) and DCM (4 mL) were cooled to −78° C., and a solution of DMSO (0.109 mL, 1.53 mmol) in DCM (1.00 mL) was added dropwise. The solution was stirred at −78° C. for 15 min, and then transferred via cannula to the reaction mixture and allowed to stir for 1 h. TEA (0.712 mL, 5.11 mmol) was added and the mixture was allowed to warm to rt. Water was added and the layers were separated. The organic solution was washed with brine, dried over Na2SO4, filtered and concentrated to give tert-butyl [3-[({7-[(2-formylpyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalen-2-yl}carbonyl)amino]-5-(trifluoromethyl)benzyl]carbamate (285 mg, 97.9%). LCMS: (FA) ES+ 570.4.

reactant | oxalyl chloride | 1.02 mmol, 0.086 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.53 mmol, 0.109 mL | CS(=O)C | C2H6OS
reactant | tert-butyl [3-{[(7-{[2-(hydroxymethyl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalen-2-yl)carbonyl]amino}-5-(trifluoromethyl)benzyl]carbamate | 0.51 mmol, 292 mg | OCC1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC=1C=C(CNC(OC(C)(C)C)=O)C=C(C1)C(F)(F)F | C30H32F3N3O5
reactant | oxalyl chloride | 1.02 mmol, 0.086 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.53 mmol, 0.109 mL | CS(=O)C | C2H6OS
reactant | Water | O | H2O
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.00 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl [3-[({7-[(2-formylpyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalen-2-yl}carbonyl)amino]-5-(trifluoromethyl)benzyl]carbamate | 285 mg, 97.9% | C(=O)C1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC=1C=C(CNC(OC(C)(C)C)=O)C=C(C1)C(F)(F)F | C30H30F3N3O5
